US08871796B2
A solution of 2-amino-2,3-dihydro-1H-indene hydrochloride salt (10.0 g, 58.9 mmol) in water (50 mL) was warmed to 60° C. Next, bromine was added dropwise (3.50 mL, 67.9 mmol) over a 50 min period. Stirred for 1 hour, cooled to RT, stirred 1 hour, treated with 5 mL of 48% HBr (aq) and filtered. The residue was dried in a vacuum oven overnight (40° C.) to give 2-amino-5-bromo-2,3-dihydro-1H-indene hydrobromide salt (14.5 g, 84% yield) as a single isomer: 1H NMR (600 MHz, DMSO-d6) δ 8.08 (br s, 3H), 7.47 (s, 1H), 7.35 (dd, J=7.9, 0.9 Hz, 1H), 7.21 (d, J=7.9 Hz, 1H), 3.97 (br s, 1H), 3.18-3.26 (m, 2H), 2.85-2.94 (m, 2H).

reactant | 2-amino-2,3-dihydro-1H-indene hydrochloride salt | 58.9 mmol, 10.0 g | Cl.NC1CC2=CC=CC=C2C1
reactant | bromine | BrBr | Br2
reactant | HBr | 5 mL | Br | BrH
solvent | water | 50 mL | O | H2O
product | 2-amino-5-bromo-2,3-dihydro-1H-indene hydrobromide salt | 14.5 g, 84% yield | Br.NC1CC2=CC=C(C=C2C1)Br | InChI=1S/C9H10BrN.BrH/c10-8-2-1-6-4-9(11)5-7(6)3-8;/h1-3,9H,4-5,11H2;1H
